US06274119B1
A mixture of 1-(6-hydroxy-2-naphthyl)ethanone (744 mg, 3.92 mmol), sodium hydrogen sulfate(IV) (1.66 g, 16 mmol), 2-ethylaminoethanol (2 mL) and water (5 mL) was heated in a steel bomb at 130-140° C. for 3 days. After cooling, the mixture was distributed between water and ethyl acetate, and the organic layer was washed with brine, dried and evaporated. The residue was dissolved in acetone and loaded onto a 4 mm dry silica plate for radial chromatography. The plate was eluted with a 1:1 mixture of petroleum ether and ethyl acetate. Appropriate fractions were collected and evaporated to give 125 mg (12%)of 1-{6-[ethyl-(2-hydroxylethyl)-amino]-2-naphthyl}ethanone.

reactant | 1-(6-hydroxy-2-naphthyl)ethanone | 3.92 mmol, 744 mg | OC=1C=C2C=CC(=CC2=CC1)C(C)=O | C12H10O2
reactant | 2-ethylaminoethanol | 2 mL | C(C)NCCO | C4H11NO
reactant | water | 5 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-{6-[ethyl-(2-hydroxylethyl)-amino]-2-naphthyl}ethanone | 125 mg, 12% | C(C)N(C=1C=C2C=CC(=CC2=CC1)C(C)=O)CCO | C16H19NO2
